US08314091B2
C: 3-((4-(4-Aminobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
N-tert-Butyl-3((4-(4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide (0.56 g, 1.31 mmol) was dissolved In methanol (10 mL) at room temperature. Raney 2800 nickel (−1mL of an aqueous suspension) was added and the grey suspension was stirred vigorously. A balloon of hydrogen was attached to the flask via a three-way stopcock and hydrogen was allowed to slowly flow through the system for 1 minute. The flask was sealed under 1 atmosphere of hydrogen and vigorous stirring continued for 1 hour. The balloon was removed and the flask was flushed with argon. The suspension was gravity-filtered over fluted paper and washed with methanol. The filtrate was concentrated to a crude foam/glass and silica chromatography (70-90% ethyl acetate in n-hexanes with 1-3% methanol, followed by 1-6% methanol in dichloromethane) gave the title compound (0.35 g).

reactant | N-tert-Butyl-3((4-(4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide | 1.31 mmol, 0.56 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C23H28N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | nickel | [Ni] | Ni
product | 3-((4-(4-Aminobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.35 g | NC1=CC=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1 | C23H30N4O2
